US06964966B2
Ammonium acetate (2.5 g, 32.46 mmol) was added to the stirred solution of 3,3,5-trimethyl-4-piperidone (0.8 g, 5.67 mmol) in methanol (20 ml) and stirring was continued for 3 hr at temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (0.25 g, 3.96 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 6 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish 4-amino-3,3,5-trimethylpiperidine. Yield 0.45 g (54%), C8H18N2, m/z 143 (M+1).

reactant | Ammonium acetate | 32.46 mmol, 2.5 g | C(C)(=O)[O-].[NH4+]
reactant | 3,3,5-trimethyl-4-piperidone | 5.67 mmol, 0.8 g | CC1(CNCC(C1=O)C)C | C8H15NO
reactant | sodium cyanoborohydride | 3.96 mmol, 0.25 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-amino-3,3,5-trimethylpiperidine | NC1C(CNCC1C)(C)C | C8H18N2
